datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18],-19.2464
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([O:7][H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[O:7][H:11])[H:3].[C:6]([H:8])([H:9])[H:10],184.393
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:6])[H:7])[H:5])[H:4]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:5])([H:4])[H:6],145.185
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](=[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11](=[C:10]([H:15])[H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:6],34.769
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:38]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:17][H:38],18.706664
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],72.174
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])([H:5])[c:12]1[c:13]([H:18])[c:14]([H:19])[c:15]([H:20])[c:16]([H:21])[c:17]1[H:22],-5.35552
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:21])[C:5]([H:22])([H:23])[C:6]([H:24])([H:25])[C:7]([O:8][O:9])([H:26])[C:10]([H:27])([H:28])[C:11]1([H:29])[H:30])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:21])[C:5]([H:22])([H:23])[C:6]([H:25])[C:7]([O:8][O:9][H:24])([H:26])[C:10]([H:27])([H:28])[C:11]1([H:29])[H:30])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14],86.052328
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])[C:5]1([C:6]([H:17])([H:18])[H:19])[H:16],41.0032
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[S:7])([H:8])[H:9]>>[C:0](#[C:1][C:2]([H:4])([H:5])[H:8])[H:3].[C:6](=[S:7])[H:9],129.955
[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[Cl:20]>>[C:0]([C:1]([C:2]([C:3]([O:4][C:5]([C:6]([H:17])([H:18])[H:19])=[O:7])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][Cl:20],3.7598
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:8])([H:5])([H:6])[H:7].[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])([H:18])([H:19])[H:20]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[C:16]([C:15]([H:18])([H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[H:8])([H:5])([H:6])[H:7],24.9366
[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10]>>[C:0](=[C:1]([S:2][H:11])[H:5])([H:3])[H:4].[C:6](=[C:7]([C:8]([H:13])([H:14])[H:15])[H:12])([H:9])[H:10],-15.2716
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])[H:6]>>[C:0](#[C:1][C:2]1([H:7])[C:3]([H:8])([H:9])[C:4]1([C:5]([H:11])[H:12])[H:10])[H:6],60.6262
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13](=[C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13]([C:12]([H:17])([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:5],43.0952
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:14](=[C:15]([H:17])[H:18])[H:16])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],-11.0039
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10](=[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22])[H:18])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:12]([C:11](=[C:10]([H:16])[H:17])[H:18])([C:13]([H:19])([H:20])[H:21])[C:14](=[C:15]([H:23])[H:24])[H:22],47.2792
